US09326987B2
N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]-2,4-difluorobenzenesulfonamide
2,4-Difluorobenzenesulfonyl chloride (0.048 mL, 0.354 mmol) was added dropwise to a solution of 5-[4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinamine (185 mg, 0.321 mmol) in pyridine (1 ml). The mixture was stirred at room temperature for 2 h. 2,4-Difluorobenzenesulfonyl chloride (0.048 mL, 0.354 mmol) was added dropwise and the mixture continued stirring at room temperature for 1 h. Water (10 ml) was added and the resultant brown precipitate collected by filtration and dried in the vacuum oven for 72 h to give the title compound as a brown solid (194 mg).

reactant | 2,4-Difluorobenzenesulfonyl chloride | 0.354 mmol, 0.048 mL | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 5-[4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinamine | 0.321 mmol, 185 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C=1C=C(C(=NC1)OC)N)S(=O)(=O)C1=CC=CC=C1 | C28H29N7O5S
reactant | 2,4-Difluorobenzenesulfonyl chloride | 0.354 mmol, 0.048 mL | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | Water | 10 ml | O | H2O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]-2,4-difluorobenzenesulfonamide | 194 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C1=C(C=C(C=C1)F)F)S(=O)(=O)C1=CC=CC=C1 | C34H31F2N7O7S2
